US06887885B2
4-Chloro-1-methyl-3-nitro-1H-pyridin-2-one (0.71 g, 3.8 mmol) and 3′-aminobiphenyl-2-carbonitrile (0.73 g, 3.8 mmol) were dissolved in triethylamine (5.25 ml, 37.8 mmol) and DMSO (5 ml) and heated at 90° C. for 18 h. The mixture was allowed to cool to ambient temperature then poured onto water (150 ml). The aqueous phase was extracted with ethyl acetate (2×150 ml), the combined organics were washed with water (3×75 ml) and brine (50 ml), dried over anhydrous sodium sulfate, filtered and evaporated to give a brown solid. The solid was triturated with diethyl ether (20 ml), filtered and left to air dry, to give 3′-(1-methyl-3-nitro-2-oxo-1,2-dihydropyridin-4-ylamino)biphenyl-2-carbonitrile (1.28 g, 98%) as a brown solid: δ (400 MHz, CDCl3) 3.50 (3H, s), 6.24 (1H, d, J 8), 7.26 (1H, d, J 8), 7.34 (1H, d, J 8), 7.48 (2H, dd, J 4 and 2), 7.51-7.59 (2H, m), 7.60 (1H, t, J 8), 7.68-7.72 (1H, m), 7.81 (1H, dd, J 8 and 1), 10.47 (1H, s).

reactant | 4-Chloro-1-methyl-3-nitro-1H-pyridin-2-one | 3.8 mmol, 0.71 g | ClC1=C(C(N(C=C1)C)=O)[N+](=O)[O-] | C6H5ClN2O3
reactant | 3′-aminobiphenyl-2-carbonitrile | 3.8 mmol, 0.73 g | NC=1C=C(C=CC1)C=1C(=CC=CC1)C#N | C13H10N2
reactant | triethylamine | 37.8 mmol, 5.25 ml | C(C)N(CC)CC | C6H15N
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 3′-(1-methyl-3-nitro-2-oxo-1,2-dihydropyridin-4-ylamino)biphenyl-2-carbonitrile | 1.28 g, 98% | CN1C(C(=C(C=C1)NC=1C=C(C=CC1)C=1C(=CC=CC1)C#N)[N+](=O)[O-])=O | C19H14N4O3
